US05629433
Reaction of 7-epi-taxol with NaHCO3 : 10 mg (0.01 mmol) of 7-epi-taxol with NaHCO3 in 0.3 ml of THF were introduced into a 4 ml vial equipped with a magnetic stir bar. 0.5 ml of 30% H2O2 was added followed by 100 mg NaHCO3 and the mixture was then stirred at room temperature overnight. The mixture was then extracted with methylene chloride/water (50:50 by volume). The organic phase was collected and dried over anhydrous magnesium sulfate. The solvent was then evaporated under reduced pressure to obtain a crude product 7-epi-10-deacetyl taxol, that was subsequently purified. Following a 48 hour reaction 25.4% chromo. purity of starting material and 48.3% chrom. purity of 7-epi-10-deacetyl taxol resulted.

reactant | 7-epi-taxol | CC1=C2[C@H](C(=O)[C@@]3([C@@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-epi-taxol | 0.01 mmol, 10 mg | CC1=C2[C@H](C(=O)[C@@]3([C@@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | H2O2 | 0.5 ml | OO | H2O2
reactant | NaHCO3 | 100 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | 7-epi-10-deacetyl taxol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O)C)O | C45H49NO13
